US05451594
Step 1: 2-Amino-5,6-methylenedioxybenzthiazole.
3,4-Methylenedioxyphenylthiourea (1.96 g; Lancaster Chemical Co) in chloroform (6 cm3) was stirred at ambient temperature and a solution of bromine (0.37 cm3) in chloroform (3 cm3) was added in portions. The mixture was cooled using a water bath and after 1 hr. was stored for 64 hr., diluted with water (100 cm3), basified with aqueous 2M sodium hydroxide and extracted with ethyl acetate (2×150 cm3). The combined organic phases were washed with water and dried (magnesium sulphate). The solution was evaporated under reduced pressure to give the required product as a pale pink solid; mp 200° C.; 1H NMR (CDCl3): δ7.06 (1H,s); 7.02(1H,s); 5.98(2H,s); 5.0(broad signal, 2H).

reactant | 3,4-Methylenedioxyphenylthiourea | 1.96 g | C1OC=2C=C(C=CC2O1)NC(=S)N | C8H8N2O2S
reactant | bromine | 0.37 cm3 | BrBr | Br2
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | chloroform | 6 cm3 | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 3 cm3 | C(Cl)(Cl)Cl | CHCl3
solvent | water | 100 cm3 | O | H2O
product | 2-Amino-5,6-methylenedioxybenzthiazole | NC=1SC2=C(N1)C=C1C(=C2)OCO1 | C8H6N2O2S
